US07834000B2
tert-Butyl 2-oxo-1,2-dihydrospiro[benzo[d][1,3]oxazine-4,4′-piperidine]-1′-carboxylate (6.71 g, 21.1 mmol) was dissolved in dichloromethane (50 mL), treated with trifluoroacetic acid (20 mL) and stirred at room temperature for 45 min. The reaction was concentrated under reduced pressure, re-dissolved in acetonitrile and re-concentrated under reduced pressure. The crude TFA salt was cooled in an ice-H2O bath, dissolved in ice-cold saturated brine (20 mL) and H2O (50 mL) and basified with ice-cold 35% NaOH (aq). A small amount of product (obtained from extraction with 50 mL ethyl acetate) was added to the aqueous layer to initiate crystallization. The suspension obtained was cooled in an ice-H2O bath, filtered, rinsed with ice-cold H2O and dried to afford 3.071 g spiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one free base as a white crystalline solid. An additional 800 mg free base was obtained via extraction of the mother liquor with ethyl acetate (10×50 mL) and subsequent trituration of the crude free base with acetonitrile (overall yield=84%). LC/MS m/z 219.2 [M+H]+, retention time 0.58 min (RP—C18, 10-99% CH3CN/0.05% TFA); 1H-NMR (400 MHz, DMSO-d6) δ 10.17 (br s, 1H), 7.23 (m, 2H), 7.02 (m, 1H), 6.87 (dd, J=8.2, 1.2 Hz, 1H), 2.89 (m, 2H), 2.82 (m, 2H), 1.84 (m, 4H).

reactant | tert-Butyl 2-oxo-1,2-dihydrospiro[benzo[d][1,3]oxazine-4,4′-piperidine]-1′-carboxylate | 21.1 mmol, 6.71 g | O=C1OC2(CCN(CC2)C(=O)OC(C)(C)C)C2=C(N1)C=CC=C2 | C17H22N2O4
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | spiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one | 3.071 g | N1CCC2(CC1)C1=C(NC(O2)=O)C=CC=C1 | C12H14N2O2
